US07855216B2
Step 1: 4,5-Dichloropyridine-3-carbaldehyde
To a solution of diisopropylamine (10.73 ml, 75.9 mmol) in THF (60 ml) at −40° C., was added n-butyllithium (47.45 ml, 75.9 mmol, 1.6M in hexanes) and the solution was stirred for 15 min at −40° C., before cooling to −70° C. A solution of 3,4-dichloropyridine (10.7 g, 72.3 mmol) in THF (30 ml) was added dropwise to maintain the temperature below −65° C. The reaction was stirred at −70° C. for 2 hours before the addition of DMF (6.74 ml, 86.8 mmol). The reaction was then stirred at −40° C. for 1 hours and then allowed to warm to −5° C. before the careful addition of saturated ammonium chloride solution (50 ml) with rapid stirring over 3 min. The mixture was then partitioned between saturated ammonium chloride (150 ml) and dichloromethane (150 ml) and the layers separated. The aqueous layer was extracted with dichloromethane (2×100 ml) and the combined organic layers were dried over magnesium sulfate, then concentrated in vacuo. Purification of the resultant residue by flash chromatography (Si-PPC, dichloromethane:ethyl acetate gradient 100:0 to 94:6) afforded the title compound as white waxy solid (8.01 g, 63%).

reactant | diisopropylamine | 75.9 mmol, 10.73 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 75.9 mmol, 1.6M, 47.45 ml | C(CCC)[Li]
reactant | 3,4-dichloropyridine | 72.3 mmol, 10.7 g | ClC=1C=NC=CC1Cl | C5H3Cl2N
reactant | DMF | 86.8 mmol, 6.74 ml | CN(C)C=O | C3H7NO
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4,5-Dichloropyridine-3-carbaldehyde | ClC1=C(C=NC=C1Cl)C=O | C6H3Cl2NO
